US04116972
Equimolar amounts of cyclohexane-1,2-dicarboxylic acid anhydride and p-aminophenylacetic acid were reacted as described in step (a) of Example 1, yielding quantitatively 4-(1,3-dioxo-hexahydro-2-isoindolinyl)phenylacetic acid (melting point 219°-221° C.).

reactant | cyclohexane-1,2-dicarboxylic acid anhydride | C12C(CCCC1)C(=O)OC2=O | C8H10O3
reactant | p-aminophenylacetic acid | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
product | 4-(1,3-dioxo-hexahydro-2-isoindolinyl)phenylacetic acid | O=C1N(C(C2CCCCC12)=O)C1=CC=C(C=C1)CC(=O)O | C16H17NO4
